US07122665B2
A suspension of 8-bromo-2-(2-methoxy-ethyl)-6-morpholin-4-yl-9H-purine (0.42 g, 1.2 mmol) in m-toluidine (0.5 mL, 3.8 eq) in a tightly stoppered flask was heated at 190° C. for 15 minutes. Column chromatography afforded [2-(2-methoxy-ethyl)-6-morpholin-4-yl-9H-purin-8-yl]-m-tolyl-amine (0.36 g, 81%) as an off-white solid.

reactant | 8-bromo-2-(2-methoxy-ethyl)-6-morpholin-4-yl-9H-purine | 1.2 mmol, 0.42 g | BrC=1NC2=NC(=NC(=C2N1)N1CCOCC1)CCOC | C12H16BrN5O2
reactant | m-toluidine | 0.5 mL, 3.8 eq | NC1=CC(=CC=C1)C | C7H9N
product | [2-(2-methoxy-ethyl)-6-morpholin-4-yl-9H-purin-8-yl]-m-tolyl-amine | 0.36 g, 81% | COCCC1=NC(=C2N=C(NC2=N1)NC=1C=C(C=CC1)C)N1CCOCC1 | C19H24N6O2
